US08541575B2
N-{3-[4-(2-aminopyrimidin-4-yl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzene-sulfonamide
80 mg (0.14 mmol) of N-{3-[4-(2-aminopyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzenesulfonamide were dissolved in 5 ml of trifluoroacetic acid and the resulting solution was heated at 70° C. under stirring for 2 hours. The solvent was removed in vacuo and the residue taken up with dichloromethane and washed with aqueous sodium hydrogenocarbonate. The organic phase was then dried over sodium sulphate and evaporated, giving, after trituration with diethylether, 10 mg (17%) of the title compound.

reactant | N-{3-[4-(2-aminopyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzenesulfonamide | 0.14 mmol, 80 mg | NC1=NC=CC(=N1)C=1C(=NN(C1)CC1=CC=C(C=C1)OC)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C27H22F2N6O3S
reactant | diethylether | C(C)OCC | C4H10O
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-{3-[4-(2-aminopyrimidin-4-yl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzene-sulfonamide | 10 mg, 17% | NC1=NC=CC(=N1)C=1C(=NNC1)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C19H14F2N6O2S
